US09108957B2
To a slurry of 2-Chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (126 mg, 0.565 mmol) and 2-methyl-[1,4]oxazepane hydrochloride (100 mg, 0.660 mmol) was added triethylamine (172 mg, 1.70 mmol) at room temperature. The resulting mixture was stirred at room temperature for 10 hours and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant; ethyl acetate) to afford 1-methyl-2-(2-methyl-[1,4]oxazepan-4-yl)-1H-[4,4′]bipyrimidinyl-6-one as white solid (A051) (103 mg, 61%).

reactant | 2-Chloro-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 0.565 mmol, 126 mg | ClC=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C9H7ClN4O
reactant | 2-methyl-[1,4]oxazepane hydrochloride | 0.660 mmol, 100 mg | Cl.CC1OCCCNC1
reactant | triethylamine | 1.70 mmol, 172 mg | C(C)N(CC)CC | C6H15N
product | 1-methyl-2-(2-methyl-[1,4]oxazepan-4-yl)-1H-[4,4′]bipyrimidinyl-6-one | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1CC(OCCC1)C | C15H19N5O2
